
*https://en.tdk.eu/tdk-en/180486/design-support/design-tools/varistors/model-libraries-for-monolithic-and-multilayer-varistors
 
* =============================================== 
* PSpice-Simulation Modell for EPCOS MLV E-Series 
* =============================================== 
* 
* 
* Basic Modell 
* =========== 
* 
*
.SUBCKT SIOV_ES_ESERIES 1 2 PARAMS: T=1 C=1pF L=1nH B1L=1 B2L=1 B3L=0 B4L=0 B1H=1 B2H=1 B3H=0 B4H=0
R_SERIES  1 3 100u
L_SERIES  3 4 {L}
V_I_SENSE 4 5 0V
H_I_SENSE 6 0 V_I_SENSE 10k
R_I_SENSE 6 0 1G
E_VAR     5 2 VALUE={IF(I(V_I_SENSE)<=1m & I(V_I_SENSE)>=-1m ,T*( 
+ PWR(10, 
+ B1L+B2L*(LOG10(LIMIT(V(6),1m,100G))-4)+B3L*EXP(-LOG10(LIMIT(V(6),1m,100G))+4)+B4L*EXP(LOG10(LIMIT(V(6),1m,100G))-4) 
+ ) 
+ -PWR(10, 
+ B1L+B2L*(LOG10(-LIMIT(V(6),-100G,-1m))-4)+B3L*EXP(-LOG10(-LIMIT(V(6),-100G,-1m))+4)+B4L*EXP(LOG10(-LIMIT(V(6),-100G,-1m))-4) 
+ ) 
+ +LIMIT((V(6)*1k*V(7)),-V(7),V(7)) 
+ ),  
+ T*( 
+ PWR(10, 
+ B1H+B2H*(LOG10(LIMIT(V(6),1m,100G))-4)+B3H*EXP(-LOG10(LIMIT(V(6),1m,100G))+4)+B4H*EXP(LOG10(LIMIT(V(6),1m,100G))-4) 
+ ) 
+ -PWR(10, 
+ B1H+B2H*(LOG10(-LIMIT(V(6),-100G,-1m))-4)+B3H*EXP(-LOG10(-LIMIT(V(6),-100G,-1m))+4)+B4H*EXP(LOG10(-LIMIT(V(6),-100G,-1m))-4) 
+ ) 
+ +LIMIT((V(6)*1k*V(8)),-V(8),V(8)) 
+ ) 
+ )}
C_PAR    4 2 {C}
E_SW_L 7 0 VALUE={PWR(10,(B1L+B2L*(-7)+B3L*EXP(+7)+B4L*EXP(-7)))}
R_SW_L 7 0 1G
E_SW_H 8 0 VALUE={PWR(10,(B1H+B2H*(-7)+B3H*EXP(+7)+B4H*EXP(-7)))}
R_SW_H 8 0 1G
.ENDS 
* 
* 
* 
* 
* =================================== 
* Types - Updated in May 2013 
* =================================== 
* 
* 
* Modell for CT0603S14BAUTOG: 
* ---------------------------------
.SUBCKT CT0603S14BAUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=120pF L=1nH B1L=1.40280553 B2L=0.02246762 B3L=-0.00014767 B4L=0.27225120 B1H=1.46212499 
+ B2H=0.02525728 B3H=-0.00250780 B4H=0.07265230
.ENDS 
* 
* 
* Modell for CT0603K14G: 
* ---------------------------------
.SUBCKT CT0603K14G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=100pF L=1nH B1L=1.34458049 B2L=0.00258835 B3L=-0.00033316 B4L=0.25242220 B1H=1.49475164 
+ B2H=0.04422759 B3H=-0.00144136 B4H=0.07185364
.ENDS 
* 
* 
* Modell for CT0603S14BG: 
* ---------------------------------
.SUBCKT CT0603S14BG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=120pF B1L=1.40280553 B2L=0.02246762 B3L=-0.00014767 B4L=0.27225120 B1H=1.46212499 
+ B2H=0.02525728 B3H=-0.00250780 B4H=0.07265230
.ENDS 
* 
* 
* Modell for CT0603K17G: 
* ---------------------------------
.SUBCKT CT0603K17G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=100pF L=1nH B1L=1.44243423 B2L=0.00622616 B3L=-0.00035545 B4L=0.32796686 B1H=1.54378592 
+ B2H=0.02446812 B3H=-0.00211743 B4H=0.08019510
.ENDS 
* 
* 
* Modell for CT0603K20G: 
* ---------------------------------
.SUBCKT CT0603K20G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=90pF L=1nH B1L=1.65266046 B2L=0.03201459 B3L=-0.00212650 B4L=0.05430176 B1H=1.65299156 
+ B2H=0.03086482 B3H=-0.00214733 B4H=0.05456264
.ENDS 
* 
* 
* Modell for CT0603K17LCG: 
* ---------------------------------
.SUBCKT CT0603K17LCG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=50pF L=1nH B1L=1.46414035 B2L=0.01348374 B3L=-0.00013280 B4L=0.22780712 B1H=1.58329869 
+ B2H=0.03968788 B3H=-0.00184117 B4H=0.07590702
.ENDS 
* 
* 
* Modell for CT0603S17ALCG: 
* ---------------------------------
.SUBCKT CT0603S17ALCG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=56pF L=1nH B1L=1.565743425 B2L=0.01772154 B3L=-0.00013853 B4L=0.1517613 B1H=1.55962223 
+ B2H=0.00505795 B3H=-0.00177727 B4H=0.05085421
.ENDS 
* 
* 
* Modell for CT0603K25G: 
* ---------------------------------
.SUBCKT CT0603K25G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=90pF L=1nH B1L=1.66717893 B2L=0.02686139 B3L=-0.00002507 B4L=0.12607664 B1H=1.75894899 
+ B2H=0.04460652 B3H=-0.00176730 B4H=0.02778195
.ENDS 
* 
* 
* Modell for CT0603S17BCCG: 
* ---------------------------------
.SUBCKT CT0603S17BCCG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=56pF L=1nH B1L=1.565743425 B2L=0.01772154 B3L=-0.00013853 B4L=0.1517613 B1H=1.55962223 
+ B2H=0.00505795 B3H=-0.00177727 B4H=0.05085421
.ENDS 
* 
* 
* Modell for CT0603S20ACCG: 
* ---------------------------------
.SUBCKT CT0603S20ACCG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=80pF L=1nH B1L=1.61536413 B2L=0.01865861 B3L=-0.00008409 B4L=-0.00659893 B1H=1.71824963 
+ B2H=0.04109682 B3H=-0.00202878 B4H=0.04287105
.ENDS 
* 
* 
* Modell for CT0603L25HTCCG: 
* ---------------------------------
.SUBCKT CT0603L25HTCCG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=10pF L=1nH B1L=1.99652835 B2L=0.06719344 B3L=-0.00004025 B4L=-0.23741879 B1H=1.97087143 
+ B2H=0.05071229 B3H=-0.00176438 B4H=0.04623268
.ENDS 
* 
* 
* Modell for CT0603S14AHSG: 
* ---------------------------------
.SUBCKT CT0603S14AHSG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=15pF L=1nH B1L=1.54683882 B2L=0.03796423 B3L=-0.00006506 B4L=0.01864923 B1H=1.69094598 
+ B2H=0.08016314 B3H=-0.00062989 B4H=0.05832965
.ENDS 
* 
* 
* Modell for CT0603L25HSG: 
* ---------------------------------
.SUBCKT CT0603L25HSG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=10pF L=1nH B1L=1.99652835 B2L=0.06719344 B3L=-0.00004025 B4L=-0.23741879 B1H=1.97087143 
+ B2H=0.05071229 B3H=-0.00176438 B4H=0.04623268
.ENDS 
* 
* 
* Modell for CT0805K11G: 
* ---------------------------------
.SUBCKT CT0805K11G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=120pF L=1.5nH B1L=1.28066459 B2L=0.0125521 B3L=-0.00036694 B4L=0.26376314 B1H=1.47236753 
+ B2H=0.06724919 B3H=-0.00081359 B4H=0.03056972
.ENDS 
* 
* 
* Modell for CT0805S14BAUTOG: 
* ---------------------------------
.SUBCKT CT0805S14BAUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=400pF L=1.5nH B1L=1.43048439 B2L=0.03181969 B3L=-0.00032468 B4L=0.14137297 B1H=1.49356269 
+ B2H=0.04060003 B3H=-0.00211444 B4H=0.04317321
.ENDS 
* 
* 
* Modell for CT0805K25AUTOG: 
* ---------------------------------
.SUBCKT CT0805K25AUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=250pF L=1.5nH B1L=1.62825009 B2L=0.01309039 B3L=-0.00032297 B4L=0.19576087 B1H=1.75894899 
+ B2H=0.04460652 B3H=-0.00176730 B4H=0.02778195
.ENDS 
* 
* 
* Modell for CT0805K14G: 
* ---------------------------------
.SUBCKT CT0805K14G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=350pF L=1.5nH B1L=1.33747070 B2L=-0.00073496 B3L=-0.00043383 B4L=0.22407021 B1H=1.53512756 
+ B2H=0.05812281 B3H=-0.00122015 B4H=0.02882738
.ENDS 
* 
* 
* Modell for CT0805K17G: 
* ---------------------------------
.SUBCKT CT0805K17G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=400pF L=1.5nH B1L=1.48904251 B2L=0.01930144 B3L=-0.00030424 B4L=0.13241879 B1H=1.58999647 
+ B2H=0.03998938 B3H=-0.00199818 B4H=0.03500197
.ENDS 
* 
* 
* Modell for CT0805K20G: 
* ---------------------------------
.SUBCKT CT0805K20G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=300pF L=1.5nH B1L=1.57623131 B2L=0.02044510 B3L=-0.00016639 B4L=0.17799900 B1H=1.67292738 
+ B2H=0.03665002 B3H=-0.00210839 B4H=0.03459776
.ENDS 
* 
* 
* Modell for CT0805K17AUTOLCG: 
* ---------------------------------
.SUBCKT CT0805K17AUTOLCG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=100pF L=1.5nH B1L=1.40230362 B2L=-0.01417299 B3L=-0.00069853 B4L=0.21107628 B1H=1.58067937 
+ B2H=0.04006172 B3H=-0.00097911 B4H=0.03703110
.ENDS 
* 
* 
* Modell for CT0805K25G: 
* ---------------------------------
.SUBCKT CT0805K25G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=250pF L=1.5nH B1L=1.62825009 B2L=0.01309039 B3L=-0.00032297 B4L=0.19576087 B1H=1.75894899 
+ B2H=0.04460652 B3H=-0.00176730 B4H=0.02778195
.ENDS 
* 
* 
* Modell for CT0805K30G: 
* ---------------------------------
.SUBCKT CT0805K30G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=200pF L=1.5nH B1L=1.74863700 B2L=0.02603962 B3L=-0.00013042 B4L=0.09018012 B1H=1.82237949 
+ B2H=0.03667054 B3H=-0.00205289 B4H=0.02579754
.ENDS 
* 
* 
* Modell for CT0805S20ACC2G2: 
* ---------------------------------
.SUBCKT CT0805S20ACC2G2_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=170pF L=1.5nH B1L=1.62223584 B2L=0.02951495 B3L=0.00003423 B4L=0.12699540 B1H=1.72783696 
+ B2H=0.05774002 B3H=-0.00074904 B4H=0.02089029
.ENDS 
* 
* 
* Modell for CT1206S14BAUTOG: 
* ---------------------------------
.SUBCKT CT1206S14BAUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=800pF L=1.8nH B1L=1.27878914 B2L=-0.01053769 B3L=-0.00065746 B4L=0.90650420 B1H=1.47649572 
+ B2H=0.02858823 B3H=-0.00254210 B4H=0.03869922
.ENDS 
* 
* 
* Modell for CT1206K20AUTOG: 
* ---------------------------------
.SUBCKT CT1206K20AUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=600pF L=1.8nH B1L=1.72601037 B2L=0.04215772 B3L=-0.00030474 B4L=-1.58598352 B1H=1.66726971 
+ B2H=0.04518126 B3H=-0.00085583 B4H=0.02512311
.ENDS 
* 
* 
* Modell for CT1206K25AUTOG: 
* ---------------------------------
.SUBCKT CT1206K25AUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=550pF L=1.8nH B1L=1.69470577 B2L=0.02140160 B3L=-0.00031288 B4L=-0.68719719 B1H=1.74622313 
+ B2H=0.03851085 B3H=-0.00188425 B4H=0.02570772
.ENDS 
* 
* 
* Modell for CT1206K14G: 
* ---------------------------------
.SUBCKT CT1206K14G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=700pF L=1.8nH B1L=1.62244747 B2L=0.06653751 B3L=-0.00033718 B4L=-1.47798851 B1H=1.51403037 
+ B2H=0.04736407 B3H=-0.00163537 B4H=0.02676337
.ENDS 
* 
* 
* Modell for CT1206K17G: 
* ---------------------------------
.SUBCKT CT1206K17G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=650pF L=1.8nH B1L=1.75053236 B2L=0.07524283 B3L=-0.00037081 B4L=-1.63138413 B1H=1.56768275 
+ B2H=0.03020402 B3H=-0.00208220 B4H=0.03470552
.ENDS 
* 
* 
* Modell for CT1206K20G: 
* ---------------------------------
.SUBCKT CT1206K20G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=600pF L=1.8nH B1L=1.71887930 B2L=0.04088142 B3L=-0.00030650 B4L=-1.46371904 B1H=1.66726971 
+ B2H=0.04518126 B3H=-0.00085583 B4H=0.02512311
.ENDS 
* 
* 
* Modell for CT1206K25G: 
* ---------------------------------
.SUBCKT CT1206K25G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=550pF L=1.8nH B1L=1.84530222 B2L=0.06193308 B3L=-0.00025786 B4L=-1.27312707 B1H=1.74622313 
+ B2H=0.03851085 B3H=-0.00188425 B4H=0.02570772
.ENDS 
* 
* 
* Modell for CT1206K30G: 
* ---------------------------------
.SUBCKT CT1206K30G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=500pF L=1.8nH B1L=1.96946362 B2L=0.06463708 B3L=-0.00028305 B4L=-1.99400403 B1H=1.82302728 
+ B2H=0.04191238 B3H=-0.00153354 B4H=0.02420550
.ENDS 
* 
* 
* Modell for CT1206K35G: 
* ---------------------------------
.SUBCKT CT1206K35G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=300pF L=1.8nH B1L=1.97606678 B2L=0.04857850 B3L=-0.00031392 B4L=-1.53915564 B1H=1.89142871 
+ B2H=0.03411927 B3H=-0.00208613 B4H=0.02446799
.ENDS 
* 
* 
* Modell for CT1206K40G: 
* ---------------------------------
.SUBCKT CT1206K40G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=250pF L=1.8nH B1L=1.85283425 B2L=0.00492288 B3L=-0.00032024 B4L=0.00629042 B1H=1.96612080 
+ B2H=0.02905063 B3H=-0.00234326 B4H=0.03451766
.ENDS 
* 
* 
* Modell for CT1210S14BAUTOG: 
* ---------------------------------
.SUBCKT CT1210S14BAUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=1700pF L=1.8nH B1L=0.75717700 B2L=-0.13752387 B3L=-0.0015211 B4L=4.08795996 B1H=1.47406152 
+ B2H=0.02731495 B3H=-0.00255549 B4H=0.02044728
.ENDS 
* 
* 
* Modell for CT1210K17AUTOG: 
* ---------------------------------
.SUBCKT CT1210K17AUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=1800pF L=1.8nH B1L=0.97737466 B2L=-0.10534760 B3L=-0.00116829 B4L=3.2432039 B1H=1.55613366 
+ B2H=0.02804638 B3H=-0.00209048 B4H=0.02732565
.ENDS 
* 
* 
* Modell for CT1210K20AUTOG: 
* ---------------------------------
.SUBCKT CT1210K20AUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=1500pF L=1.8nH B1L=1.82068351 B2L=0.06270865 B3L=-0.00040709 B4L=-2.13938312 B1H=1.64725524 
+ B2H=0.02861585 B3H=-0.00222069 B4H=0.2237067
.ENDS 
* 
* 
* Modell for CT1210K25AUTOG: 
* ---------------------------------
.SUBCKT CT1210K25AUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=1200pF L=1.8nH B1L=1.72460071 B2L=0.04336803 B3L=-0.00047159 B4L=0.09376908 B1H=1.72808073 
+ B2H=0.03376551 B3H=-0.00191494 B4H=0.02191693
.ENDS 
* 
* 
* Modell for CT1210K14G: 
* ---------------------------------
.SUBCKT CT1210K14G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=2000pF L=1.8nH B1L=1.19997584 B2L=-0.03441918 B3L=-0.00090814 B4L=1.02575898 B1H=1.48158406 
+ B2H=0.03418344 B3H=-0.00181676 B4H=0.02731732
.ENDS 
* 
* 
* Modell for CT1210K17G: 
* ---------------------------------
.SUBCKT CT1210K17G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=1800pF L=1.8nH B1L=0.97737466 B2L=-0.10534760 B3L=-0.00116829 B4L=3.2432039 B1H=1.55613366 
+ B2H=0.02804638 B3H=-0.00209048 B4H=0.02732565
.ENDS 
* 
* 
* Modell for CT1210K20G: 
* ---------------------------------
.SUBCKT CT1210K20G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=1500pF L=1.8nH B1L=1.82068351 B2L=0.06270865 B3L=-0.00040709 B4L=-2.13938312 B1H=1.64725524 
+ B2H=0.02861585 B3H=-0.00222069 B4H=0.2237067
.ENDS 
* 
* 
* Modell for CT1210K25G: 
* ---------------------------------
.SUBCKT CT1210K25G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=1200pF L=1.8nH B1L=1.82603877 B2L=0.04997056 B3L=-0.00048439 B4L=-0.97340763 B1H=1.73064560 
+ B2H=0.02550119 B3H=-0.00206521 B4H=0.02349981
.ENDS 
* 
* 
* Modell for CT1210K30G: 
* ---------------------------------
.SUBCKT CT1210K30G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=1000pF L=1.8nH B1L=1.80922465 B2L=0.02994595 B3L=-0.00040075 B4L=-0.00040075 B1H=1.79728538 
+ B2H=0.02783473 B3H=-0.000219852 B4H=0.02450352
.ENDS 
* 
* 
* Modell for CT1210K35G: 
* ---------------------------------
.SUBCKT CT1210K35G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=600pF L=1.8nH B1L=1.94838466 B2L=0.04272451 B3L=-0.00034922 B4L=-1.29661198 B1H=1.86471838 
+ B2H=0.02482581 B3H=-0.00215863 B4H=0.02661505
.ENDS 
* 
* 
* Modell for CT2220S14BAUTOG: 
* ---------------------------------
.SUBCKT CT2220S14BAUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=9500pF L=3nH B1L=1.04738542 B2L=-0.06080967 B3L=-0.00115093 B4L=2.81290654 B1H=1.45277102 
+ B2H=0.02437008 B3H=-0.00188946 B4H=0.01337450
.ENDS 
* 
* 
* Modell for CT2220K30AUTOG: 
* ---------------------------------
.SUBCKT CT2220K30AUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=4000pF L=3nH B1L=1.40105586 B2L=-0.06952985 B3L=-0.00133725 B4L=1.77503149 B1H=1.77411506 
+ B2H=0.02370554 B3H=-0.00157729 B4H=0.01763574
.ENDS 
* 
* 
* Modell for CT2220K17G: 
* ---------------------------------
.SUBCKT CT2220K17G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=9000pF L=3nH B1L=1.62300103 B2L=0.03251643 B3L=-0.00120206 B4L=-1.42783061 B1H=1.52569116 
+ B2H=0.02409727 B3H=-0.00114518 B4H=0.019226829
.ENDS 
* 
* 
* Modell for CT2220K20G: 
* ---------------------------------
.SUBCKT CT2220K20G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=7000pF L=3nH B1L=1.09555481 B2L=-0.10438402 B3L=-0.00180696 B4L=2.97942498 B1H=1.62195032 
+ B2H=0.02675442 B3H=-0.00119947 B4H=0.01581808
.ENDS 
* 
* Modell for CT2220K25G: 
* ---------------------------------
.SUBCKT CT2220K25G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=5000pF L=3nH B1L=1.56000148 B2L=-0.01045825 B3L=-0.00144425 B4L=0.58029814 B1H=1.70195614 
+ B2H=0.03041706 B3H=-0.00102213 B4H=0.01449152
.ENDS 
* 
* Modell for CT2220K30G: 
* ---------------------------------
.SUBCKT CT2220K30G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=4000pF L=3nH B1L=1.40105586 B2L=-0.06952952 B3L=-0.00133725 B4L=1.77503149 B1H=1.77411506 
+ B2H=0.02370554 B3H=-0.00157729 B4H=0.01763574
.ENDS 
* 
* Modell for CT2220S14BAUTOE2G2: 
* ---------------------------------
.SUBCKT CT2220S14BAUTOE2G2_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=15000pF L=3nH B1L=1.22297252 B2L=-0.02947576 B3L=-0.00154912 B4L=1.17154180 B1H=1.45277102 
+ B2H=0.02437008 B3H=-0.00188946 B4H=0.01337450
.ENDS 
* 
* Modell for CT2220K35G: 
* ---------------------------------
.SUBCKT CT2220K35G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=2500pF L=3nH B1L=1.35245277 B2L=-0.09413428 B3L=-0.00130449 B4L=2.80068095 B1H=1.84475923  
+ B2H=0.02395886 B3H=-0.00127267 B4H=0.01637929
.ENDS 
* 
* 
* Modell for CT2220K40G: 
* ---------------------------------
.SUBCKT CT2220K40G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=2000pF L=3nH B1L=1.32860266 B2L=-0.11924993 B3L=-0.00142686 B4L=3.51238818 B1H=1.93606384 
+ B2H=0.02673253 B3H=-0.00119857 B4H=0.01389671
.ENDS 
* 
* 
* Modell for CT1812S14BAUTOG: 
* ---------------------------------
.SUBCKT CT1812S14BAUTOG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=5600pF L=2.5nH B1L=1.50557291 B2L=0.05423401 B3L=-0.00020672 B4L=0.07452384 B1H=1.46413957 
+ B2H=0.02690229 B3H=-0.00204701 B4H=0.01514234
.ENDS 
* 
* 
* Modell for CT1812K25G: 
* ---------------------------------
.SUBCKT CT1812K25G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=2500pF L=2.5nH B1L=1 B2L=1 B3L=0 B4L=0 B1H=1 
+ B2H=1 B3H=0 B4H=0
.ENDS 
* 
* 
* Modell for CT1812K30G: 
* ---------------------------------
.SUBCKT CT1812K30G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=2000pF L=2.5nH B1L=2.12842888 B2L=0.10755180 B3L=-0.00023884 B4L=-2.58608778 B1H=1.79086537 
+ B2H=0.03207054 B3H=-0.00116798 B4H=0.01603457
.ENDS 
* 
* 
* Modell for CT1812S14BAUTOE2G2: 
* ---------------------------------
.SUBCKT CT1812S14BAUTOE2G2_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=5600pF L=2.5nH B1L=1.50557291 B2L=0.05423401 B3L=-0.00020672 B4L=0.07452384 B1H=1.46413957 
+ B2H=0.02690229 B3H=-0.00204701 B4H=0.01514234
.ENDS 
* 
* 
* Modell for CT1812K35G: 
* ---------------------------------
.SUBCKT CT1812K35G_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=1200pF L=2.5nH B1L=1.57969846 B2L=-0.04374579 B3L=-0.00098591 B4L=1.14912456 B1H=1.84978128 
+ B2H=0.02666300 B3H=-0.00113866 B4H=0.02228614
.ENDS 
* 
* 
* Modell for CT0402S17AG2: 
* ---------------------------------
.SUBCKT CT0402S17AG2_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=33pF L=1nH B1L=0.76811625 B2L=-0.14260219 B3L=-0.00064041 B4L=6.63755083 B1H=1.58118775 
+ B2H=0.02026752 B3H=-0.00057488 B4H=0.09878000
.ENDS 
* 
* 
* Modell for CT0402S14AHSG: 
* ---------------------------------
.SUBCKT CT0402S14AHSG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=10pF L=1nH B1L=1.21709962 B2L=-0.02128305 B3L=-0.00018389 B4L=3.42168482 B1H=1.69196447 
+ B2H=0.08265658 B3H=0.00006727 B4H=0.05692941
.ENDS 
* 
* 
* Modell for CA05M2S10T100HG: 
* ---------------------------------
.SUBCKT CA05M2S10T100HG_ESERIES 1 2 PARAMS: TOL=0
X1 1 2 SIOV_ES_ESERIES PARAMS: T={1+TOL/100} C=100pF L=1nH B1L=1.51797350 B2L=0.04117980 B3L=-0.00015263 B4L=0.04410615 B1H=1.51797350 
+ B2H=0.04117980 B3H=-0.00015263 B4H=0.04410615
.ENDS 
*
;$SpiceType=AMBIGUOUS
